US04225723
(a) α-n-octyl-2,4-dichlorobenzyl cyanide
Sodium hydride (0.13 moles as a 50% dispersion in mineral oil) is washed with 100 ml. of dry n-hexane to remove the mineral oil, then blanketed with dry nitrogen and suspended in 250 ml. of freshly distilled tetrahydrofuran. To this sodium hydride suspension is added dropwise at room temperature, a solution of 2,4-dichlorobenzyl cyanide (25 g., 0.13 mole) dissolved in 100 ml. of tetrahydrofuran. When the addition is completed the temperature is maintained at 30° C. for an additional 0.5 hours. A solution of n-octylbromide (27 g., 0.14 mole) is then added dropwise and the resultant reaction mixture is stirred at 40° C. overnight under nitrogen. The reaction mixture is poured into 1 liter of water and extracted with (3×200 ml.) of ether. The combined ether extracts are washed, with water, dilute hydrochloric acid, saturated sodium, bicarbonate solution saturated sodium chloride solution, and dried over magnesium sulfate. The solvent is evaporated to give 39.8 g. (100%) of product.

reactant | 2,4-dichlorobenzyl cyanide | 0.13 mole, 25 g | ClC1=C(CC#N)C=CC(=C1)Cl | C8H5Cl2N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-octylbromide | 0.14 mole, 27 g | C(CCCCCCC)Br | C8H17Br
solvent | water | 1 liter | O | H2O
product | α-n-octyl-2,4-dichlorobenzyl cyanide | C(CCCCCCC)C(C1=C(C=C(C=C1)Cl)Cl)C#N | C16H21Cl2N
